US08030337B2
6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-one
6-Amino-7-hydroxyindan-1-one hydrobromide (50 mg, 0.205 mmol) and triethyl orthoformate (128 μL, 0.769 mmol) were heated under reflux in tetrahydrofuran (2.5 mL) for 0.5 hr. The mixture was diluted with ethyl acetate, washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=30/70→80/20) to give the title compound (21.9 mg, yield from Reference Example 3 62%).

reactant | 6-Amino-7-hydroxyindan-1-one hydrobromide | 0.205 mmol, 50 mg | Br.NC1=CC=C2CCC(C2=C1O)=O
reactant | triethyl orthoformate | 0.769 mmol, 128 μL | C(OCC)(OCC)OCC | C7H16O3
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-Dihydro-8H-indeno[5,4-d][1,3]oxazol-8-one | 21.9 mg, 62% | O1C=NC2=C1C=1C(CCC1C=C2)=O | C10H7NO2
